US07709473B2
6-tert-Butyl-8-(piperidin-4-ylamino)-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one
A solution of 45 mg of 4-(6-tert-butyl-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-8-ylamino)-piperidine-1-carboxylic acid ethyl ester in dioxane (10 mL) was treated with 6N KOH (1.0 mL) and the mixture was heated to reflux. After eight h, the reaction mixture was concentrated and the residue was dissolved in 48% HBr and heated at 80° C. After 14 h, the reaction mixture was concentrated to afford the title compound as a tan solid. MS (M+H+)=290.3.

reactant | 4-(6-tert-butyl-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-8-ylamino)-piperidine-1-carboxylic acid ethyl ester | 45 mg | C(C)OC(=O)N1CCC(CC1)NC=1C=2N(C=C(N1)C(C)(C)C)C(NN2)=O | C17H26N6O3
reactant | KOH | 6N, 1.0 mL | [OH-].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-tert-Butyl-8-(piperidin-4-ylamino)-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one | C(C)(C)(C)C=1N=C(C=2N(C1)C(NN2)=O)NC2CCNCC2 | C14H22N6O
